US07776897B2
A toluene solution (3.0 ml) of pyrrolidine (0.100 ml) was added to a mixture of 2-{1-[5-(2-bromophenyl)-4-methyl-4H-1,2,4-triazol-3-yl]-1-methylethyl}pyridine (360 mg), sodium tert-butoxide (136 mg), bis(dibenzylideneacetone)dipalladium (23.1 mg) and 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (31.4 mg) under a nitrogen condition, followed by stirring at 100° C. for 18 hours. The reaction solution was diluted with water (15 ml) and then extracted with ethyl acetate (15 ml). The organic layer washed with brine, dried over anhydrous magnesium sulfate and filtered and then the solvent was removed by evaporation under reduced pressure. The resulting crude product was purified by flash column chromatography (chloroform:methanol=90:10) and further purified by preparative thin layer chromatography (hexane:acetone=1:1) to obtain 81.4 mg of 2-(1-methyl-1-{4-methyl-5-[2-(1-pyrrolidinyl)phenyl]-4H-1,2,4-triazol-3-yl]ethyl}pyridine (pale yellow crystals).

reactant | pyrrolidine | 0.100 ml | N1CCCC1 | C4H9N
reactant | 2-{1-[5-(2-bromophenyl)-4-methyl-4H-1,2,4-triazol-3-yl]-1-methylethyl}pyridine | 360 mg | BrC1=C(C=CC=C1)C=1N(C(=NN1)C(C)(C)C1=NC=CC=C1)C | C17H17BrN4
reactant | sodium tert-butoxide | 136 mg | CC(C)([O-])C.[Na+]
reactant | 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 31.4 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
solvent | water | 15 ml | O | H2O
catalyst | bis(dibenzylideneacetone)dipalladium | 23.1 mg | C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 3.0 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(1-methyl-1-{4-methyl-5-[2-(1-pyrrolidinyl)phenyl]-4H-1,2,4-triazol-3-yl]ethyl}pyridine | 81.4 mg | CC(C)(C1=NN=C(N1C)C1=C(C=CC=C1)N1CCCC1)C1=NC=CC=C1 | C21H25N5
